US08957062B2
Step C: tert-butyl (5-methyl-6-{2-[(1S,2R)-2-piperidin-4-ylcyclopropyl]ethoxy}pyridin-3-yl)acetate
Benzyl 4-[(1R,2S)-2-(2-{[5-(2-tert-butoxy-2-oxoethyl)-3-methylpyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate (2.6 g, 5.1 mmol) in 30 mL of EtOH was treated with 10% palladium on carbon (300 mg) for 2.5 hrs under 1 atm. of hydrogen gas. The suspension was filtered through a celite pad and concentrated in vacuo to give product used for the next reaction without further purification. LCMS (ESI) m/z 375 [M+H]+.

reactant | Benzyl 4-[(1R,2S)-2-(2-{[5-(2-tert-butoxy-2-oxoethyl)-3-methylpyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate | 5.1 mmol, 2.6 g | C(C)(C)(C)OC(CC=1C=C(C(=NC1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C)=O | C30H40N2O5
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | tert-butyl (5-methyl-6-{2-[(1S,2R)-2-piperidin-4-ylcyclopropyl]ethoxy}pyridin-3-yl)acetate | CC=1C=C(C=NC1OCC[C@H]1[C@H](C1)C1CCNCC1)CC(=O)OC(C)(C)C | C22H34N2O3
